US04910202
A solution of 1.97 g (9.26 mmol) of 2-hydroxy-5-(1,1-dimethylethyl)-6-chlorobenzaldehyde and 1.98 g (11.1 mmol) of N-bromosuccinimide in 30 ml of methylene chloride was stirred for 2 hours. Water (50 ml) was added. The organic phase was dried and evaporated. The residue was chromatographed on 150 g of silica gel eluted with 1:99 (v/v) ether:hexane. There was obtained 2.69 g (9.22 mmol, 99%) of 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)-6-chlorobenzaldehyde as a white solid after recrystallization from hexane; mp 103°-105° C.

reactant | 2-hydroxy-5-(1,1-dimethylethyl)-6-chlorobenzaldehyde | 9.26 mmol, 1.97 g | OC1=C(C=O)C(=C(C=C1)C(C)(C)C)Cl | C11H13ClO2
reactant | N-bromosuccinimide | 11.1 mmol, 1.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 50 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)-6-chlorobenzaldehyde | 9.22 mmol, 2.69 g, 99% | OC1=C(C=O)C(=C(C=C1Br)C(C)(C)C)Cl | C11H12BrClO2
